US06384065B1
In a mixture consisting of 23 ml of ethanol and 23 ml of tetrahydrofuran was dissolved 2.30 g of ethyl (3R)-4-benzoyl-3-(tert-butoxycarbonyl)-1-thia-4-azaspiro[4.5]decane-8-carboxylate. Then, 15.9 ml of 1 mol/L aqueous solution of sodium hydroxide was added at 0-5° C. and the resulting mixture was stirred at ambient temperature for 2 hours. The solvent was distilled off under reduced pressure, the residue thus obtained was added to a mixture of water and ethyl acetate, and the aqueous layer was separated. Ethyl acetate was added to the aqueous layer, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Isopropyl ether was added to the residue and the deposited crystal was collected by filtration. Thus, 1.78 g of (3R)-4-benzoyl-3-(tert-butoxycarbonyl)-1-thia-4-azaspiro[4.5]decane-8-carboxylic acid was obtained as a colorless crystalline product.

reactant | ethanol | 23 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
reactant | ethyl (3R)-4-benzoyl-3-(tert-butoxycarbonyl)-1-thia-4-azaspiro[4.5]decane-8-carboxylate | 2.30 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)C(=O)OCC)C(=O)OC(C)(C)C | C23H31NO5S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (3R)-4-benzoyl-3-(tert-butoxycarbonyl)-1-thia-4-azaspiro[4.5]decane-8-carboxylic acid | 1.78 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)C(=O)O)C(=O)OC(C)(C)C | C21H27NO5S
